US04010177
In the manner given in Preparation 39, 8-fluoro-1-(chloromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide and ethylallylamine in tetrahydrofuran are reacted to give 8-fluoro-1-[(allylethylamino)methyl]-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 47 9-(Trifluoromethyl)-1-[(allylmethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8-fluoro-1-(chloromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)F)C1 | C17H11ClF2N4
reactant | potassium iodide | [I-].[K+]
reactant | ethylallylamine | C(C)C=CCN | C5H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-fluoro-1-[(allylethylamino)methyl]-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCCCC=C)C3=C(C=CC=C3)F)C1 | C22H21F2N5
